US09353083B2
1.7 g (3.5 mmol) of tert-butyl [(R)-2-(3-cyclopropylmethoxy-3-o-tolylazetidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]carbamate are placed in 45 ml of a 3M solution of hydrogen chloride in ethyl acetate and are stirred at room temperature for 3 hours. After evaporation under a stream of nitrogen, the crude product is taken up in a mixture of heptane and ethyl acetate, and then concentrated under vacuum. 1.6 g (100%) of (R)-2-amino-1-(3-cyclopropylmethoxy-3-o-tolylazetidin-1-yl)-3-(4-methoxyphenyl)propan-1-one hydrochloride are obtained in the form of a beige-coloured solid.

reactant | tert-butyl [(R)-2-(3-cyclopropylmethoxy-3-o-tolylazetidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]carbamate | 3.5 mmol, 1.7 g | C1(CC1)COC1(CN(C1)C([C@@H](CC1=CC=C(C=C1)OC)NC(OC(C)(C)C)=O)=O)C1=C(C=CC=C1)C | C29H38N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-amino-1-(3-cyclopropylmethoxy-3-o-tolylazetidin-1-yl)-3-(4-methoxyphenyl)propan-1-one hydrochloride | 1.6 g, 100% | Cl.N[C@@H](C(=O)N1CC(C1)(C1=C(C=CC=C1)C)OCC1CC1)CC1=CC=C(C=C1)OC | InChI=1S/C24H30N2O3.ClH/c1-17-5-3-4-6-21(17)24(29-14-19-7-8-19)15-26(16-24)23(27)22(25)13-18-9-11-20(28-2)12-10-18;/h3-6,9-12,19,22H,7-8,13-16,25H2,1-2H3;1H/t22-;/m1./s1
